US07351733B2
6-[(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)amino]nicotinonitrile was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine (75 mg, 0.28 mmol) and 6-chloronicotinonitrile (118 mg, 0.85 mmol) in a similar manner as described in Example 22 to give 6.5 mg (6%) of a light brown solid. 1H-NMR (DMSO-d6): δ 10.95 (s, 1H), 8.36 (s, 1H), 7.79 (d, 1H), 7.64 (dd, 1H), 7.57 (d, 1H), 7.23 (d, 1H), 7.13 (dd, 1H), 6.62 (d, 1H), 5.40-5.35 (m, 1H), 2.70-2.55 (m, 2H), 2.07-1.78 (m, 4H); MS m/z (M−1) 365, 367.

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | 0.28 mmol, 75 mg | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 6-chloronicotinonitrile | 0.85 mmol, 118 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
product | 6-[(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)amino]nicotinonitrile | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC1=NC=C(C#N)C=C1 | C18H15BrN4
